US04838943
68 Parts of 4-(3'-nitro-4'-chlorobenzoyl)-amino-2,2,6,6-tetramethylpiperidine are added to 250 parts of acetic anhydride. After the addition of 21 parts of triethylamine, the suspension is stirred for 16 hours at toom temperature and then for 3 hours at 100°-110°. In order to complete precipitation of the acetyl derivative, 1500 parts by volume of cold water are added and stirred at room temperature until all the excess acetic anhydride is destroyed. The precipitate is then filtered, washed neutral with water and dried. 72 parts of 4-(3'-nitro-4'-chlorobenzoyl)-amino-1-acetyl-2,2,6,6-tetramethyl-piperidine having a melting point of 198°-200° results.

reactant | 4-(3'-nitro-4'-chlorobenzoyl)-amino-2,2,6,6-tetramethylpiperidine | [N+](=O)([O-])C=1C=C(C(=O)C2CC(N(C(C2)(C)C)N)(C)C)C=CC1Cl | C16H22ClN3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(3'-nitro-4'-chlorobenzoyl)-amino-1-acetyl-2,2,6,6-tetramethyl-piperidine | [N+](=O)([O-])C=1C=C(C(=O)C2C(C(N(C(C2)(C)C)C(C)=O)(C)C)N)C=CC1Cl | C18H24ClN3O4
